US04523042
2,5,9-Trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaenyl acetate
A solution of 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene-1-ol (1.6 g, 5 mmol) and pyridine (9.6 ml, 7.3 mmol) in 15 ml of anhydrous methylene chloride is stirred in an ice bath and a solution of acetyl chloride (0.37 ml, 5.25 mmol) in 5 ml of anhydrous methylene chloride is added dropwise. The mixture is stirred at 0° C. for 11/2 hours and at room temperature for 30 minutes and then taken up in 250 ml of ether. The solution is washed with ice cold 5% aqueous sodium bicarbonate and water, dried (MgSO4) and evaporated to give the crude product; recrystallization from ethanol affords the titled compound.

reactant | 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene-1-ol | 5 mmol, 1.6 g | CC(CO)=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C | C23H34O
reactant | pyridine | 7.3 mmol, 9.6 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 5.25 mmol, 0.37 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2,5,9-Trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaenyl acetate | C(C)(=O)OCC(=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C)C | C25H36O2
